US07790709B2
Preparation of (E)-3-(6-amino-5-cyano-pyridin-3-yl)-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)-acrylamide hydrochloroide:
A propionitrile (15 mL) solution of 2-amino-5-bromo-nicotinonitrile (198 mg, 1 mmol), N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)-acrylamide (457 mg, 2 mmol) and diisopropyl-ethylamine (523 μL, 3 mmol) was purged with Argon for 10 min. Pd(OAc)2 (23 mg, 0.1 mmol) and P(o-Tol)3 (61 mg, 0.2 mmol) was added and the Argon purge was repeated. The mixture was heated to 100° C. and stirred for 6 hr under Argon. Upon cooling, solvents were removed under vacuo and the residue was purified by Flash chromatography (silica, 2% MeOH in CH2Cl2). The purified free base was converted to its HCl salt by addition of HCl (1 mL, 1 mmol, IM in ether). The salt was washed with ether and dried to afford 162 mg (43%) of the title compound. 1H NMR (300 MHz, DMSO-d6) δ 8.50 (m, 2H), 7.55-6.95 (m, 4H), 6.40 and 6.17 (rotamers, 2s, 1H), 5.03 and 4.83 (rotamers, 2s, 2H), 3.71 and 3.67 (rotamers, 2s, 3H), 3.09 and 2.96 (rotamers, 2s, 3H). MS (ESI) m/e: 346.1662 (M+H)+.

reactant | propionitrile | 15 mL | C(CC)#N | C3H5N
reactant | 2-amino-5-bromo-nicotinonitrile | 1 mmol, 198 mg | NC1=C(C#N)C=C(C=N1)Br | C6H4BrN3
reactant | N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)-acrylamide | 2 mmol, 457 mg | CN(C(C=C)=O)CC=1N(C2=CC=CC=C2C1)C | C14H16N2O
reactant | diisopropyl-ethylamine | 3 mmol, 523 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | P(o-Tol)3 | 0.2 mmol, 61 mg | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
reactant | HCl | Cl | ClH
reactant | HCl | 1 mmol, 1 mL | Cl | ClH
catalyst | Pd(OAc)2 | 0.1 mmol, 23 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (E)-3-(6-amino-5-cyano-pyridin-3-yl)-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)-acrylamide | 162 mg, 43% | NC1=C(C=C(C=N1)/C=C/C(=O)N(CC=1N(C2=CC=CC=C2C1)C)C)C#N | C20H19N5O
